US07012075B2
To 4-methoxybenzyl N-(1-(tert-butoxycarbonyl)4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1H-pyrazol-3-yl)leucinate (1.14 g, 1.68 mmol) in EtOH (30 mL) was added the catalyst palladium on carbon (10%, 500 mg) and the reaction was stirred under a hydrogen atmosphere overnight. After degassing with nitrogen, CH2Cl2 was added and the reaction mixture was filtered on celite, washed with EtOH, concentrated in vacuo and purified by flash chromatography over silica gel (AcOH/EtOAc/Hex, 1/49/50) to afford N-(1-(tert-butoxycarbonyl)-4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1H-pyrazol-3-yl)leucine.

reactant | 4-methoxybenzyl N-(1-(tert-butoxycarbonyl)4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1H-pyrazol-3-yl)leucinate | 1.68 mmol, 1.14 g | C(C)(C)(C)OC(=O)N1N=C(C(=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)N[C@@H](CC(C)C)C(=O)OCC1=CC=C(C=C1)OC | C37H51N5O7
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | N-(1-(tert-butoxycarbonyl)-4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-1H-pyrazol-3-yl)leucine | C(C)(C)(C)OC(=O)N1N=C(C(=C1)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C29H43N5O6
